US07875645B2
2,6-Diethyl-3-phenoxy-benzaldehyde was prepared from 2,6-diethyl-3-hydroxy-benzaldehyde and phenylboronic acid in analogy to Example 219a): yellow oil; 1H-NMR (CDCl3): 1.20 (3H, t, CH3), 1.25 (3H, t, CH3), 2.93 (2H, q, CH2), 2.98 (2H, q, CH2), 6.91 (2H, d, 2×ArH), 7.00-7.10 (3H, m, 3×ArH), 7.28-7.38 (2H, m, 2×ArH), 10.6 (1H, s, CHO).

reactant | 2,6-diethyl-3-hydroxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1O)CC | C11H14O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2,6-Diethyl-3-phenoxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1OC1=CC=CC=C1)CC | C17H18O2
